US08735384B2
To a solution of (R)-4-(6-bromo-2-(4-methoxybenzylamino)quinolin-3-yl)-5-methylmorpholin-3-one (0.11 g, 0.241 mmol) in THF (5 mL) was added borane tetrahydrofuran complex, 1.0M in THF (0.482 mL, 0.482 mmol) and the resulting mixture was refluxed for 1 h. Some of the borane-amine complex was observed. The mixture was brought at RT, concentrated and dissolved in MeOH. The mixture was purged with N2 followed by the addition of Pd/C and stirred at RT for 20 min until no more complex was observed. The mixture was filtered through celite and concentrated to give (R)-6-bromo-N-(4-methoxybenzyl)-3-(3-methylmorpholino)quinolin-2-amine that was used without purification.

reactant | (R)-4-(6-bromo-2-(4-methoxybenzylamino)quinolin-3-yl)-5-methylmorpholin-3-one | 0.241 mmol, 0.11 g | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1C(COC[C@H]1C)=O | C22H22BrN3O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.482 mmol, 0.482 mL | C1CCOC1 | C4H8O
product | (R)-6-bromo-N-(4-methoxybenzyl)-3-(3-methylmorpholino)quinolin-2-amine | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1[C@@H](COCC1)C | C22H24BrN3O2
